US07572826B2
2-[(Aminocarbonyl)amino]-5-[4-{[N-(2-hydroxyethyl)-N-methylamino]methyl}phenyl]thiophene-3-carboxamide
2-[(Aminocarbonyl)amino]-5-[4-formylphenyl]thiophene-3-carboxamide (0.1 g) was stirred in a mixture of DME (10 ml) and DMA(5 ml). 2-(Methylamino)ethanol (0.13 g) was added, followed by trimethyl orthoformate (5 ml) and acetic acid (0.5 ml). The reaction was stirred at 80° C. for 20 min, and then polymer-supported cyanoborohydride (0.45 g) was added. The reaction was stirred at 80° C. for a further 2 h, and then polymer-supported benzaldehyde (0.5 g) was added. The resins were removed by filtration and the filtrate was passed through a 5 g SCX column, washing with methanol (25 ml). The product was eluted using 1M methanolic ammonia (45 ml) and this solution was evaporated to dryness under reduced pressure. Purification by chromatography on silica, eluting with DCM/methanol (9:1), gave the product as an off-white solid (0.072 g). MS (ES) 349 (M+H)+. 1H NMR (DMSO-D6) 2.15 (s, 3H), 2.45 (m, 2H), 3.50 (m, 4H), 4.35 (t, 1H), 6.90 (s, 2H), 7.25-7.40 (m, 3H), 7.50 (d, 2H), 7.70 (s, 1H), 7.75 (s, 1H), 11.00 (s, 11).

reactant | 2-[(Aminocarbonyl)amino]-5-[4-formylphenyl]thiophene-3-carboxamide | 0.1 g | NC(=O)NC=1SC(=CC1C(=O)N)C1=CC=C(C=C1)C=O | C13H11N3O3S
reactant | 2-(Methylamino)ethanol | 0.13 g | CNCCO | C3H9NO
reactant | trimethyl orthoformate | 5 ml | C(OC)(OC)OC | C4H10O3
reactant | cyanoborohydride | 0.45 g | C(#N)[BH3-]
reactant | benzaldehyde | 0.5 g | C(C1=CC=CC=C1)=O | C7H6O
solvent | DME | 10 ml | COCCOC | C4H10O2
solvent | DMA | 5 ml | CC(=O)N(C)C | C4H9NO
solvent | acetic acid | 0.5 ml | C(C)(=O)O | C2H4O2
product | 2-[(Aminocarbonyl)amino]-5-[4-{[N-(2-hydroxyethyl)-N-methylamino]methyl}phenyl]thiophene-3-carboxamide | 0.072 g | NC(=O)NC=1SC(=CC1C(=O)N)C1=CC=C(C=C1)CN(C)CCO | C16H20N4O3S
